US07378437B2
B) Synthesis of 2-acetyloxybenzoic acid 6-(chloromethyl)-2methylpyridinyl ester
To a solution of acetylsalicylic acid (1.6 g, 8.88 mmoles) in N,N′-dimethylformamide (20 ml) and under stirring, sodium ethylate (0.64 g, 8.88 mmoles) is added. After 30 minutes the obtained solution is added to a solution of 2,6-bis-(chloromethyl)pyridine (4.72 g, 26.81 mmoles) in N,N′-dimethylformamide (20 ml). The solution is left at room temperature for 7 days, under stirring, then it is diluted with ethyl ether and washed with water. The separated organic phases are anhydrified with sodium sulphate and the solvent is evaporated at reduced pressure. The reaction crude product is purified by chromatography on silica gel eluting with n-hexane/ethyl acetate 7/3. 1.7 g of the product are obtained as a yellow oil.

reactant | acetylsalicylic acid | 8.88 mmoles, 1.6 g | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
reactant | sodium ethylate | 8.88 mmoles, 0.64 g | CC[O-].[Na+]
reactant | 2,6-bis-(chloromethyl)pyridine | 26.81 mmoles, 4.72 g | ClCC1=NC(=CC=C1)CCl | C7H7Cl2N
solvent | N,N′-dimethylformamide | 20 ml | CN(C)C=O | C3H7NO
solvent | N,N′-dimethylformamide | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-acetyloxybenzoic acid 6-(chloromethyl)-2methylpyridinyl ester | 1.7 g | ClCC1=CC=C(C(=N1)C)OC(C1=C(C=CC=C1)OC(C)=O)=O | C16H14ClNO4
